US09034921B2
Step 4: 7-Chloro-6-(4-ethoxybenzyl)-4-((3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)-tetrahydro-2H-pyran-2-yl)benzofuran-3(2H)-one
To a solution of 2-(2-bromo-6-chloro-5-(4-ethoxybenzyl)-3-((3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)-tetrahydro-2H-pyran-2-yl)phenoxy)-N-methoxy-N-methylacetamide (1.02 g, 1.06 mmole) in THF (15 mL) was added nBuLi (1.3 mL, 3.18 mmole, 2.5M in hexane) at −78° C. The resulting solution was warmed up to rt and stirred overnight, diluted with a saturated NH4Cl and extracted with ethyl acetate. The organic layer was washed with water then brine, dried over MgSO4, filtered, and concentrated in vacuo. The crude residue was purified on Biotage® purification apparatus to yield the title compound (429 mg, 49%) as a yellow gum.

reactant | 2-(2-bromo-6-chloro-5-(4-ethoxybenzyl)-3-((3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)-tetrahydro-2H-pyran-2-yl)phenoxy)-N-methoxy-N-methylacetamide | 1.06 mmole, 1.02 g | BrC1=C(OCC(=O)N(C)OC)C(=C(C=C1C1O[C@@H]([C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)CC1=CC=C(C=C1)OCC)Cl | C53H55BrClNO9
reactant | nBuLi | 3.18 mmole, 2.5M, 1.3 mL | [Li]CCCC
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | NH4Cl | [NH4+].[Cl-]
product | 7-Chloro-6-(4-ethoxybenzyl)-4-((3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)-tetrahydro-2H-pyran-2-yl)benzofuran-3(2H)-one | 429 mg, 49% | ClC1=C(C=C(C=2C(COC21)=O)C2O[C@@H]([C@H]([C@@H]([C@H]2OCC2=CC=CC=C2)OCC2=CC=CC=C2)OCC2=CC=CC=C2)COCC2=CC=CC=C2)CC2=CC=C(C=C2)OCC | C51H49ClO8
